US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid (syn isomer, 1.8 g.) was treated with conc. hydrochloric acid (0.89 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 1.8 g.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid | 1.8 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O)=NOC)Br | C15H14BrN5O6S2
reactant | hydrochloric acid | 0.89 ml | Cl | ClH
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methyl-3-cephem-4-carboxylic acid hydrochloride | 1.8 g | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)C)C(=O)O)C1=O)=NOC)Br | InChI=1S/C14H14BrN5O5S2.ClH/c1-4-3-5(13(23)24)20-11(22)8(12(20)26-4)17-10(21)7(19-25-2)6-9(15)27-14(16)18-6;/h3-4,8,12H,1-2H3,(H2,16,18)(H,17,21)(H,23,24);1H/t4?,8?,12-;/m1./s1
